Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old ___ woman (___ and ___ speaking) with HTN,
HLD with several months of atypical chest pain on exertion when
climbing stairs, lasts minutes. 

 She had been having chest pain the morning of presentation 
___.
She was referred from ___ by Dr. ___. She last had chest pain
at 11 am on ___. This pain was her "typical pain," not more
frequent or more severe.  She has had no chest pain at rest. No
headache, vision change, or SOB. Non-smoker. No FH early MI.

In the ED...
- Initial vitals:  T: 97.6  HR: 106  BP: 186/105  RR: 18  SO2:
98% RA 
 
- Exam: HR 106, SBP 180s/100s. Normal cardiac exam.
HEART score 5.

- Labs: unremrarkable CBC and Chem 7, Trop negative x2, proBNP:
254

- EKG:  L axis dev, T wave inv avL, ___levation in III,
V2-4

- Studies: CTA below no acute aortic pathology, CXR: No focal
consolidation to suggest pneumonia. Moderate cardiac enlargement
and 
 probable mildly dilated ascending aorta which can be confirmed
with dedicated chest CTA.  Stress Test: IMPRESSION: Non-specific
EKG changes in the setting of baseline prominent votlage and
ventricular bigeminy with atypical type symptoms.  Ventricular
irritability with increasing workloads as noted above. Fair
functional capacity. 

- Cardiology was consulted: "EKG and clinical situation 
reviewed.
EKG suggestive of AMI with no EKG preceding ___ normal TTE.
Recommend admission to ___ for further workup of angina and
exercise induced bigeminy. Please order formal TTE"

- Given:
___ 22:56 PO Aspirin 324 mg ___  
___ 22:56 PO/NG Simvastatin 10 mg ___  
___ 08:42 PO/NG amLODIPine 10 mg ___  
___ 20:22 PO/NG Simvastatin 10 mg ___ 

- Vitals on transfer: T: 98.1  HR: 73 BP: 156/86  RR: 16  SO2:
97% RA 

On the floor she denies chest pain, also is rather insistent 
that
she has never had "chest pain" but fatigue and an odd sensation
at the mid-sternum of her chest which is not reproducible with
palpation, never occurs at rest, has no heart burn.  Also of 
note
she describes taking most of her medications "sometimes today 
but
then not the other day."

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Diabetes  
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: ___ 2307 Temp: 98.4 PO BP: 141/86 R Sitting HR: 73 RR:
20 O2 sat: 98% O2 delivery: RA  
GENERAL: WDWN women in NAD. Oriented x3. Mood, affect
appropriate.  Speaks ___ as well as Igbo
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with   
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. systolic ejection click 
Norubs/gallops.
No thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAMINATION:
VS: 24 HR Data (last updated ___ @ 810)
    Temp: 98.6 (Tm 98.7), BP: 145/88 (129-149/69-88), HR: 63
(61-68), RR: 18 (___), O2 sat: 97% (96-98), O2 delivery: Ra  
GENERAL: WDWN women in NAD. Mood, affect appropriate.  Speaks
___ as well as Igbo.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple.
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. 
LUNGS: Breathing comfortably, no accessory muscle use. CTAB. No
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND.  
EXTREMITIES: No lower extremity edema. 
SKIN: No stasis dermatitis, ulcers.  
 
Pertinent Results:
ADMISSION LABS:
=================
___ 08:30PM BLOOD WBC-4.7 RBC-3.77* Hgb-11.6 Hct-36.5 
MCV-97 MCH-30.8 MCHC-31.8* RDW-12.1 RDWSD-42.8 Plt ___
___ 08:30PM BLOOD Neuts-31.0* Lymphs-59.5* Monos-7.0 
Eos-1.5 Baso-0.8 Im ___ AbsNeut-1.46* AbsLymp-2.81 
AbsMono-0.33 AbsEos-0.07 AbsBaso-0.04
___ 08:30PM BLOOD Glucose-85 UreaN-21* Creat-0.7 Na-142 
K-3.5 Cl-99 HCO3-31 AnGap-12
___ 06:55AM BLOOD Calcium-9.1 Phos-3.0 Mg-2.2
___ 08:30PM BLOOD cTropnT-<0.01
___ 02:00AM BLOOD cTropnT-<0.01

NOTABLE IMAGING:
================
___ CTA Chest:
1.  No evidence of pulmonary embolism. 
2.  Mild fusiform dilatation of the ascending aorta measuring up 
to 4.2 cm.  
No evidence for aortic dissection. 
3.  Mildly dilated main pulmonary artery may be seen with 
pulmonary arterial hypertension. 
4.  19 mm heterogeneously enhancing left thyroid lobe nodule for 
which 
correlation with thyroid ultrasound is recommended. 
5.  Bilateral calcified pulmonary nodules are compatible with 
prior 
granulomatous disease. 
6.  Focal area of bronchiectasis in the left upper lobe may be 
the sequela of prior infection. 
7.  19 mm left thyroid nodule.  Further evaluation with 
dedicated thyroid 
ultrasound is recommended. 

___ TTE: 
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. There is moderate symmetric left ventricular 
hypertrophy with normal cavity size and regional systolic 
function. Global left ventricular systolic function is 
hyperdynamic. Quantitative (3D) LVEF = 72 %. The estimated 
cardiac index is normal (>=2.5L/min/m2). Tissue Doppler imaging 
suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). Right ventricular chamber size and free wall 
motion are normal. The aortic root is mildly dilated at the 
sinus level. The ascending aorta is mildly dilated. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis. Mild (1+) aortic regurgitation 
is seen. The mitral valve leaflets are structurally normal. 
There is no mitral valve prolapse. There is no systolic anterior 
motion of the mitral valve leaflets. Mild to moderate (___) 
mitral regurgitation is seen. The estimated pulmonary artery 
systolic pressure is normal. There is a trivial/physiologic 
pericardial effusion. 
IMPRESSION: Moderate symmetric left ventricular hypertrophy with 
preserved regional and hyperdynamic global systolic function. 
Mild-moderate mitral regurgitation. Dilated ascending aorta. 
Mild aortic regurgitation. Increased PCWP. 
Compared with the prior study (images reviewed) of ___, 
the left ventricular and valvular findings are similar. The 
ascending aorta measures slighlty larger on the current study.

___ Pharmacologic Stress Test
Normal myocardial perfusion study.

DISCHARGE LABS:
===============
___ 07:10AM BLOOD WBC-4.3 RBC-4.17 Hgb-13.0 Hct-40.6 MCV-97 
MCH-31.2 MCHC-32.0 RDW-11.9 RDWSD-42.6 Plt ___
___ 07:10AM BLOOD Glucose-76 UreaN-18 Creat-0.7 Na-144 
K-3.8 Cl-100 HCO3-29 AnGap-15
___ 07:10AM BLOOD Calcium-9.9 Phos-4.0 Mg-2.___ year old ___ woman (___ and ___ speaking) with HTN, 
HLD who presented with atypical angina. She was found to have 
bigeminy on exercise stress in the ED, and admitted for further 
evaluation. The patient underwent echo which did not show any 
wall motion abnormalities. She also underwent first EKG stress 
test which showed ventricular bigeminy and was indeterminate, 
and then perfusion stress test which showed normal myocardial 
perfusion. The patient did not have any recurrent episodes of 
chest pain while in the hospital. Her home carvedilol was 
switched to Metoprolol 25mg daily to maximize beta blockade. She 
was discharged with plan for follow-up with her PCP and 
cardiologist.

#CORONARIES: no cath
#PUMP: EF preserved
#RHYTHM: sinus

ACTIVE ISSUES: 
=================================
# Stable angina: EKG without acute MI, stress test was performed 
in ED with ventricular bigeminy and atypical symptoms c/f for 
underlying CAD as well as EKG findings consistent with prior MI. 
A1C 5.1%. LDL 87. The patient underwent TTE which did not show 
any wall motion abnormalities. She underwent EKG stress test 
that was indeterminate due to ventricular bigemeny. She also 
underwent perfusion stress test which showed normal myocardial 
perfusion. The patient was continued on ASA and atorvastatin 
(switched from home simvastatin given DDI with amlodipine). She 
was switched from carvedilol to Metoprolol to maximize beta 
blockade. Her symptoms may be related to bigeminy with exertion. 
She will follow up with cardiology and if sx persist, will 
repeat ETT.

# HTN: goal 130/80 
- continued home amlodipine.
- discontinued home carvedilol at discharge, and instead 
switched to Metoprolol for increased cardiac beta blockade.

CHRONIC/STABLE ISSUES: 
=================================
# OSA: presumed, undergoing outpatient evaluation, will not 
start
CPAP.

# thyroid nodule: seen on CT, will need outpatient thyroid
ultrasound 

TRANSITIONAL ISSUES:
=================================
[ ] Please monitor patient's symptoms of chest pain.
[ ] Patient's home carvedilol was switched to Metoprolol 25mg 
daily for increased cardiac beta blockade. Please monitor the 
patient's HR and BP at next appointment. Can uptitrate 
Metoprolol as tolerated. 
[ ] Patient's home simvastatin was switched to atorvastatin due 
to drug-drug interaction between simvastatin and amlodipine.
[ ] The patient has a mildly dilated ascending aorta on TTE. 
Based on ___ ACCF/AHA Thoracic Aortic Guidelines, a follow-up 
echocardiogram is suggested in ___ year. 
[ ] The patient had thyroid nodule noted on CT. Will need 
outpatient thyroid ultrasound for further workup.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Simvastatin 10 mg PO QPM 
2. Carvedilol 6.25 mg PO BID 
3. amLODIPine 10 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at nighttime Disp 
#*30 Tablet Refills:*0 
2.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
3.  amLODIPine 10 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES: chest discomfort

SECONDARY DIAGNOSES: Hypertension, Obstructive sleep apnea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you!

WHY WERE YOU IN THE HOSPITAL?
- You were in the hospital because you were having chest 
discomfort when you walked.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- You had an exercise stress test which showed that your heart 
was not beating in a normal rhythm.
- You had an ultrasound taken of your heart which showed no 
evidence of a heart attack.
- You had a stress test which showed your heart was receiving 
enough blood when stressed. This is a normal result.

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
- You should stop taking carvedilol and start taking Metoprolol.
- You should stop taking simvastatin and start taking 
atorvastatin.
- You should follow-up with your doctors as listed below.

Wishing you all the best,
Your ___ Treatment Team
 
Followup Instructions:
___